US08309580B2
(1) ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)(methyl)amino]propanoate
A solution of 4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]benzoic acid (1.0 g), ethyl 3-(methylamino)propanoate (0.3 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.5 g), hydroxybenzotriazole monohydrate (0.4 g) and triethylamine (0.3 mL) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (10% ethyl acetate/hexane to 40% ethyl acetate/hexane) to give the title compound (1.2 g, 100%) as an amorphous compound.

reactant | 4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]benzoic acid | 1.0 g | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CSC)NC1=CC=C(C(=O)O)C=C1 | C27H28F3NO3S
reactant | ethyl 3-(methylamino)propanoate | 0.3 g | CNCCC(=O)OCC | C6H13NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.5 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole monohydrate | 0.4 g | O.OC1=CC=CC=2NN=NC21
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)(methyl)amino]propanoate | 1.2 g, 100% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CSC)NC1=CC=C(C=C1)C(=O)N(CCC(=O)OCC)C | C33H39F3N2O4S
